US07329662B2
5-(4-Fluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile
Reaction of 1-(4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (234 mg, 1.0 mmol), prepared from commercially available 4-fluoro-acetophenone according to general procedure A, and 3-amino-4-cyano-pyrazole (108 mg, 1.0 mmol) according to general procedure B yielded the title compound as a yellow solid (118 mg, 39%). MS (ISP) 306.9 [(M+H)+]; mp 198° C.

reactant | 1-(4-fluoro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 1.0 mmol, 234 mg | FC1=CC=C(C=C1)C(CC(C(F)(F)F)=O)=O | C10H6F4O2
reactant | 3-amino-4-cyano-pyrazole | 1.0 mmol, 108 mg | NC1=NNC=C1C#N | C4H4N4
product | 5-(4-Fluoro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 118 mg, 39% | FC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C#N | C14H6F4N4
